US04032344
Binder 15 was prepared as follows: Trans-2,5-dimethylpiperazine in water at 50° C. was treated with slightly more than two molar equivalents of m-chlorosulfonylbenzoic acid and five molar equivalents of aqueous sodium hydroxide. Acidification gave 1,4-bis(m-carboxyphenylsulfonyl)-2,5-dimethylpiperazine which was recrystallized from aqueous ethanol. The dimethyl ester was made by boiling the acid for 24 hours in methanol to which some hydrogen chloride has been added. Recrystallization from 2:1 dioxane: water gave a product which melted at 223°-227° C. Anal. Calc'd for C22H26N2O8S2 : C, 51.7; H, 5.1; N, 5.5. Found: C, 51.6; H, 5.4; N, 5.7. The polymer was then made from this ester and ethylene glycol as described for Binder 6.

reactant | Trans-2,5-dimethylpiperazine | C[C@@H]1NC[C@H](NC1)C | C6H14N2
reactant | m-chlorosulfonylbenzoic acid | ClS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C7H5ClO4S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 1,4-bis(m-carboxyphenylsulfonyl)-2,5-dimethylpiperazine | C(=O)(O)C=1C=C(C=CC1)S(=O)(=O)N1C(CN(C(C1)C)S(=O)(=O)C1=CC(=CC=C1)C(=O)O)C | C20H22N2O8S2
